Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vicodin / Sulfathiazole
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt is an ___ y/o F with PMHx of breast CA, HTN, HLD, COPD 
migraines, dementia, who presented to the ED after a mechanical 
fall in the bathroom last night (slipped on towel and landed on 
right hip). + head strike, no loss of consciousness or hx of 
seizures. + right hip and femur pain following fall. She also 
had a fall in ___ at which time she slipped and fractured her 
patella and required 20 stitches of her arm. She ___ any 
nausea/vomiting. She has noted intermittent diarrhea.  

ED Course:
Initial VS: 98.8 60 145/62 18 98% Pain ___
Labs unremarkable.
Pertinent Imaging: plain films showing pubic rami fracture in 2 
places
Meds given: morphine 2 mg IV x 2 and dilaudid 1 mg IV x 1

Pt seen by ortho in the ED, who recommended judet films of the 
hip, admission to medicine for pain control. WBAT.

VS prior to transfer: 97.9 77 147/67 15 94% RA Pain ___

On arrival to the floor, patient states she has ___ pain but 
her pain is better controlled. She states she has more pain with 
movement but none when lying still.

ROS: As above. Denies headache, lightheadedness, dizziness, sore 
throat, sinus congestion, chest pain, heart palpitations, 
shortness of breath, cough, nausea, vomiting, diarrhea, 
constipation, urinary symptoms, muscle or joint pains, focal 
numbness or tingling, skin rash. The remainder of the ROS was 
negative.

 
Past Medical History:
Oncologic History:
Per primary oncologist - Her breast cancer history begins in 
___ when she developed bilateral breast cancer.  
She does not recall all details of her
therapy and her records are not currently available.  By her
description, she had a smaller left-sided cancer and a larger
right-sided cancer.  Each was excised, presumably with adequate
margins, and there is evidence that she had at least a 
left-sided
(? bilateral) lower axillary lymph node dissection.   Dr. 
___ performed her surgery and she then received radiation
therapy to both breasts.  Her medical oncologist prescribed ___
years of tamoxifen therapy.  Thus, her tumor was presumably
hormone receptor positive and would not likely have been tested
for HER-2/neu at that time.  She has had no breast cancer 
therapy
since ___ when she completed the ___ year course of tamoxifen, 
and
she has remained clinically recurrence free with checkups one to
two times per year and regular mammography.

- Breast cancer diagnosed in ___ treated with lumpectomy, left 
lower axillary LN dissection, radiation, - and ___ years of 
tamoxifen.
- ___ Late recurrence of breast cancer on the left breast and 
skin of the upper abdomen and right chest wall. She was started 
on anastrazole.  Estrogen and progesterone receptor positive as 
well as HER-2/neu negative
- Progression of nodules on anastrazole - started on  
capecitabine ___ - and has now received three one-week
courses of therapy, punctuated by seven days off.  She is on a
conservative dose given her age and comorbidities, receiving 
1000
mg twice daily for seven consecutive days.
 
Social History:
___
Family History:
No malignancy
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS -T98.2 BP118/72 HR67 RR18 100%RA
GEN - elderly female, lying in bed, oriented to self only
HEENT - OP clear, full ROM of neck
NECK - no cervical/supraclavicular lad
CV - rrr, no m/r/g
RESP - ctab, unable to listen posteriorly given limited potient 
mobility
ABD - soft, nondistended, nontender, normoactive bowel sounds
EXT - no ___ edema
SKIN - bruising of upper extremities 
PSYCH - pleasant, conversing appropriately
MSK - limited mobility of lower extremities, limited exam of RLE 
due to pain. ___ strength of LLE hip flexors/extensors. full 
sensation in b/l ___
___ strength of b/l ___

DISCHARGE PHYSICAL EXAM
Vitals:  Tc97.5 HR64 BP144/44 RR16 98%RA 1220/200
GEN - elderly female, laying flat in NAD, oriented to ___, 
month and year, and self, conversing appropriately
HEENT - OP clear, full ROM of neck
NECK - no cervical/supraclavicular lad
CV - rrr, no m/r/g
RESP - ctab
ABD - soft, nondistended, nontender, normoactive bowel sounds
EXT - no ___ edema
SKIN - bruising of upper extremities 
PSYCH - pleasant, conversing appropriately
MSK - limited mobility of lower extremities, limited exam of RLE 
due to pain/noncooperative. ___ strength of LLE hip 
flexors/extensors. full sensation in b/l ___

 
Pertinent Results:
ADMISSION LABS
___ 12:20AM BLOOD WBC-5.8 RBC-3.57* Hgb-12.5 Hct-35.6* 
MCV-100* MCH-34.9*# MCHC-35.0 RDW-16.4* Plt ___
___ 12:20AM BLOOD Neuts-76.6* Lymphs-15.4* Monos-4.7 
Eos-2.8 Baso-0.4
___ 12:20AM BLOOD ___ PTT-32.7 ___
___ 12:20AM BLOOD Glucose-106* UreaN-17 Creat-1.0 Na-140 
K-5.1 Cl-108 HCO3-22 AnGap-15
___ 12:20AM BLOOD Calcium-8.8 Phos-3.7 Mg-1.9

PERTINENT IMAGING
___
CT C-spine w/o contrast:  No acute cervical spine fractures 
identified.
CT Head w/o contrast: No acute intracranial abnormalities 
identified.
CXR: COPD. No evidence of acute cardiopulmonary disease.
Ankle: No ankle fractures are identified.  There is no soft 
tissue effusion.
Hip:  Acute fractures involving the right superior and inferior 
pubic
rami, which are not displaced.  No other fractures are 
identified.
Pelvis: Redemonstrated are the right superior and inferior pubic 
rami
fractures, better evaluated on the prior exam.  Should further
characterization be required, consider CT.

DISCHARGE LABS
___ 07:05AM BLOOD WBC-6.7 RBC-3.45* Hgb-11.6* Hct-34.3* 
MCV-99* MCH-33.7* MCHC-34.0 RDW-17.3* Plt ___
___ 07:05AM BLOOD Plt ___
___ 07:05AM BLOOD Glucose-76 UreaN-14 Creat-0.8 Na-139 
K-3.6 Cl-104 HCO3-19* AnGap-20
___ 07:05AM BLOOD Calcium-8.8 Phos-3.4 Mg-1.___ y/o F with PMHx of breast CA, HTN, HLD, COPD migraines, 
dementia, here with inferior right pubic rami fracture following 
mechanical fall at home.
  
ACTIVE ISSUES
# Pubic Rami Fracture: Patient presented with pubic ramus 
fracture after suffering a mechanical fall in the bathroom. She 
tripped on a towel and did not have LOC or syncopal symptoms. 
She did hit her head and had negative head and cervical neck CT 
in the ED. Patient was seen by orthopedics who recommended 
nonoperative management. Patient was encouraged to take 
medications to achieve adequate pain control so that she would 
be able to participate in physical therapy actively, for which 
she is WBAT. She is to f/u in orthopedics clinic. 

# Orthostasis: Patient with mild orthostatic symtpoms while 
working with ___. Given IVF boluses with good effect.

CHRONIC ISSUES
# Breast CA: ER/PR+; HER-2/neu negative. Currently on 
capecitabine orally 7 days on and 7 days off. Patient is to be 
restarted on her capecitabine when advised by her outpatient 
oncologist Dr. ___.
# HTN: Continued home atenolol and amlodipine
# HLD: Continued lipitor
# Dementia: Continued aricept
 
# CODE STATUS: FULL CODE 
Contact, son ___ ___

___ Issues:
-Patient to restart capecitabine per Dr. ___ with orthopedics
-WBAT

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Donepezil 10 mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Vitamin D ___ UNIT PO DAILY 
4. Amlodipine 2.5 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Atorvastatin 20 mg PO DAILY 
7. FaBB (folic acid-vit B6-vit B12) 2.2-25-1 mg oral daily 
8. Sertraline 25 mg PO DAILY 
9. Capecitabine 1000 mg PO BID 

 
Discharge Medications:
1. Amlodipine 2.5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atenolol 25 mg PO DAILY 
4. Atorvastatin 20 mg PO DAILY 
5. Donepezil 10 mg PO HS 
6. Sertraline 25 mg PO DAILY 
7. Vitamin D ___ UNIT PO DAILY 
8. Acetaminophen 1000 mg PO Q8H pain 
9. FaBB (folic acid-vit B6-vit B12) 2.2-25-1 mg oral daily 
10. Docusate Sodium 100 mg PO BID 
11. Polyethylene Glycol 17 g PO DAILY 
12. Senna 8.6 mg PO BID 
13. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 capsule(s) by mouth every four hours Disp 
#*28 Capsule Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: pubic rami fracture after mechanical fall

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to take care of you here at ___. You were 
admitted for severe right hip pain after a fall. Imaging showed 
that you have a broken pubis bone. You were seen by the 
orthopedic surgeons who do not recommend surgery and rather 
advise pain management and physical therapy. You will be going 
to rehab where you can regain your strength. You should go to 
your appointment at the orthopedics clinic. You should restart 
your capecitabine when indicated to do so by Dr. ___. We wish 
you all the best.

Sincerely,

Your ___ team
 
Followup Instructions:
___